US07125880B1
2-{4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenyl-propan-2-ol
To a solution of [2-(4-bromo-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-(1-ethyl-propyl)-amine in dry THF was added n-butyllithium at −78° C. After stirring at −78° C. for 10 min, acetone was added and the resulting mixture was stirred at −78° C. for 30 min, the dry-ice bath was removed. After stirring for 5 min, the mixture was quenched with brine and extracted with ethyl acetate. The organic layer was separated, dried, and concentrated to dryness. The residue was purified through silica gel chromatography to give the title compound. 1H NMR(CDCl3) d 7.17(s,2H), 6.08(s,1H), 3.73(d,1H), 3.33(m,1H), 2.19(s,3H), 2.15(s,3H), 2.12(s,6H), 1.4–1.7(m,4H), 1.26(s,6H), 0.96(t,6H) ppm.

reactant | [2-(4-bromo-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-(1-ethyl-propyl)-amine | BrC1=CC(=C(OC2=NC(=CC(=C2C)NC(CC)CC)C)C(=C1)C)C | C20H27BrN2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | acetone | CC(=O)C | C3H6O
solvent | THF | C1CCOC1 | C4H8O
product | 4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenyl-propan-2-ol | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)CC(C)O)C)C | C23H34N2O2
